US05804532
A mixture of 3-cyclopropyl-2-(N,N-dimethylaminomethylene)-1-(4-methyl-3-methylsulphenylphenyl)propan-1,3-dione (10.6 g) and hydroxylamine hydrochloride (2.92 g) in ethanol was stirred at room temperature overnight. Water was added and the mixture was evaporated to remove the ethanol. It was extracted with ethyl acetate, washed with aqueous sodium chloride solution, dried (sodium sulphate) and filtered. The filtrate was evaporated to dryness and the residue was purified by chromatography on silica eluted with a mixture of ether and cyclohexane to give 5-cyclopropyl-4-(4-methyl-3-methylsulphenylbenzoyl)isoxazole (2.77 g) as a white solid, m.p. 85.5°-86.1° C.

reactant | 3-cyclopropyl-2-(N,N-dimethylaminomethylene)-1-(4-methyl-3-methylsulphenylphenyl)propan-1,3-dione | 10.6 g | C1(CC1)C(C(C(=O)C1=CC(=C(C=C1)C)SC)=CN(C)C)=O | C17H21NO2S
reactant | hydroxylamine hydrochloride | 2.92 g | Cl.NO
reactant | Water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 5-cyclopropyl-4-(4-methyl-3-methylsulphenylbenzoyl)isoxazole | 2.77 g | C1(CC1)C1=C(C=NO1)C(C1=CC(=C(C=C1)C)SC)=O | C15H15NO2S
